US07737136B2
Trifluoroacetic anhydride (1 mL) was added to trans-7-fluoro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepine-1-amine (0.6 g, 2.1 mmol) in 5 mL CH2Cl2 and 2 mL of pyridine. The resulting suspension was stirred for 18 h at room temperature. The brown solution was poured into 100 mL of ice-water and extracted with CH2Cl2. The organic layer was washed with water, dried (Na2SO4) and evaporated. Diethyl ether was added to the resulting solid and heated to reflux for 30 min. The residue was dissolved in CH2Cl2 and heated to reflux for 30 min. The precipitate was filtered off, washed with CH2Cl2 and dried to give trans-2,2,2-trifluoro-N-(7-fluoro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)acetamide as an off-white solid (0.2 g, 25.6%). Data: (m/z)=381 (M+H)+.

reactant | Trifluoroacetic anhydride | 1 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trans-7-fluoro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepine-1-amine | 2.1 mmol, 0.6 g | FC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4N)C=CC=C3)C=C1 | C17H17FN2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | trans-2,2,2-trifluoro-N-(7-fluoro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)acetamide | 0.2 g, 25.6% | FC(C(=O)N[C@@H]1CCCN2C3=C(OC4=C([C@@H]21)C=CC=C4)C=CC(=C3)F)(F)F | C19H16F4N2O2
